US04749791
15.0 g (0.06 mol) of 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline were dissolved in 150 ml of methylene chloride, treated with 6.68 g (0.066 mol) of triethylamine and 11.2 g (0.066 mol) of p-methoxybenzoyl chloride in 50 ml of methylene chloride were added dropwise thereto at 0°. After stirring at room temperature for 1 hour the mixture was extracted with water, dried with magnesium sulphate and the solvent was distilled off in vacuo. Crystallization (methylene chloride-ether) gave 4-(p-methoxybenzoyl)-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline as white crystals of melting point 182°-183°.

reactant | 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | 0.06 mol, 15.0 g | ClC1=CC2=C(C=3CCCNC3CC2)C=C1 | C13H14ClN
reactant | triethylamine | 0.066 mol, 6.68 g | C(C)N(CC)CC | C6H15N
reactant | p-methoxybenzoyl chloride | 0.066 mol, 11.2 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-(p-methoxybenzoyl)-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | COC1=CC=C(C(=O)N2CCCC=3C4=C(CCC23)C=C(C=C4)Cl)C=C1 | C21H20ClNO2
